US07094801B2
4-{3E-[5-(1H-Benzoimidazol-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 5-(1H-benzoimidazol-2-yl)-2,4-dimethoxy-benzaldehyde (Ex-70A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp>240° C. (dec.). 1H-NMR (DMSO-d6) δ 8.72 (s, 1H), 12.10 (s, 1H), 8.18 (d, J=8.4 Hz, 2H), 8.08–8.02 (m, 3H), 7.80 (d, J=15.4 Hz, 1H), 7.59 (s, 2H), 7.17–7.13 (m, 2H), 6.89 (s, 1H), 4.10 (s, 3H), 4.03 (s, 3H). MS m/z=429 ([M+H]+, 100%).

reactant | 5-(1H-benzoimidazol-2-yl)-2,4-dimethoxy-benzaldehyde | N1C(=NC2=C1C=CC=C2)C=2C(=CC(=C(C=O)C2)OC)OC | C16H14N2O3
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-{3E-[5-(1H-Benzoimidazol-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid | N1C(=NC2=C1C=CC=C2)C=2C(=CC(=C(C2)/C=C/C(=O)C2=CC=C(C(=O)O)C=C2)OC)OC | C25H20N2O5
